US06248777B1
A mixture of 42.0 g of 2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-carboxylic acid ethyl ester, 88 g of stannous chloride and 500 ml of ethyl alcohol was heated to reflux for 2 hours. The reaction mixture was combined with an aqueous 2N sodium chloride solution and extracted with ethyl acetate. The organic layer was washed with saturated saline, then dried over sodium sulfate and concentrated under reduced pressure to give 5.2 g of 6-amino-2,2-bisfluoromethyl-2H-1-benzopyran-4-carboxylic acid ethyl ester as an oil;

reactant | 2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-carboxylic acid ethyl ester | 42.0 g | C(C)OC(=O)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(CF)CF | C14H13F2NO5
reactant | sodium chloride | 2N | [Cl-].[Na+]
solvent | ethyl alcohol | 500 ml | C(C)O | C2H6O
product | 6-amino-2,2-bisfluoromethyl-2H-1-benzopyran-4-carboxylic acid ethyl ester | 5.2 g | C(C)OC(=O)C1=CC(OC2=C1C=C(C=C2)N)(CF)CF | C14H15F2NO3
